US07737166B2
Ethyl 4-[(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)amino]butanoate (I-280)
With cooling with ice, ethyl 4-aminobutanoate hydrochloride (149 mg, 0.892 mmol) and diisopropylethylamine (303 μl, 1.78 mmol) were added to a dichloromethane (7 ml) solution of 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (213 mg, 0.743 mmol), followed by stirring at room temperature for 15 hours. The reaction liquid was concentrated under reduced pressure, ethyl acetate was added, followed by washing with saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=2:1→1:1, v/v) to obtain the entitled compound (279 mg, 99%) as a white solid.

reactant | ethyl 4-aminobutanoate hydrochloride | 0.892 mmol, 149 mg | Cl.NCCCC(=O)OCC
reactant | diisopropylethylamine | 1.78 mmol, 303 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.743 mmol, 213 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | Ethyl 4-[(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)amino]butanoate | 279 mg, 99% | C(#N)C1=C(C(=C(C2=C1N=C(O2)NCCCC(=O)OCC)F)C2=CC=CC=C2)C | C21H20FN3O3
